US08236792B2
(2R,4S)-1-[2-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-4-(3-fluoro-phenoxy)-pyrrolidin-1-yl]-ethanone.
The title compound was prepared by Preparation 1: acylation as described for Example 114; or Preparation 2: reaction of 3-fluoro-iodobenzene and (2R,4S)-1-[2-(4-cyclobutyl-[1,4]diazepane-1-carbonyl)-4-hydroxy-pyrrolidin-1-yl]-ethanone as described for Example 48. MS (ESI): mass calcd. for C22H30FN3O3, 403.23; m/z found, 404.3 [M+H]+. 1H NMR (CDCl3): 7.28-7.23 (m, 1H), 6.75-6.69 (m, 1H), 6.69-6.64 (m, 1H), 6.65-6.55 (m, 1H), 5.15-4.90 (m, 1H), 4.07 (dd, J=11.2, 4.9 Hz, 1H), 3.89-3.47 (m, 5H), 3.01-2.83 (m, 1H), 2.74-2.27 (m, 6H), 2.13-2.00 (m, 6H), 1.95-1.65 (m, 6H).

reactant | 3-fluoro-iodobenzene | FC=1C=C(C=CC1)I | C6H4FI
reactant | (2R,4S)-1-[2-(4-cyclobutyl-[1,4]diazepane-1-carbonyl)-4-hydroxy-pyrrolidin-1-yl]-ethanone | C1(CCC1)N1CCN(CCC1)C(=O)[C@@H]1N(C[C@H](C1)O)C(C)=O | C16H27N3O3
product | (2R,4S)-1-[2-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-4-(3-fluoro-phenoxy)-pyrrolidin-1-yl]-ethanone | C1(CCC1)N1CCN(CCC1)C(=O)[C@@H]1N(C[C@H](C1)OC1=CC(=CC=C1)F)C(C)=O | C22H30FN3O3
